US04282242
5-(2,4-Dichlorobenzoyl)pyrrole-3-carboxylic Acid
Methyl 5-(2,4-dichlorobenzoyl)pyrrole-3-carboxylate (3.0 g.) was refluxed for 2.5 hours in 35 ml. of methanol and 35 ml. of 1 N sodium hydroxide. The methanol was evaporated, and approximately one volume of water was added to the aqueous residue. The mixture was extracted twice with ether, and acidified with conc. hydrochloric acid to yield 2.12 g. of crude product, recovered by filtration. Recrystallization from methanol, which included an activated carbon treatment, afforded purified 5-(2,4-dichlorobenzoyl)pyrrole-3-carboxylic acid (1.06 g., m.p. 245°-249° C.).

reactant | Methyl 5-(2,4-dichlorobenzoyl)pyrrole-3-carboxylate | 3.0 g | ClC1=C(C(=O)C2=CC(=CN2)C(=O)OC)C=CC(=C1)Cl | C13H9Cl2NO3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(2,4-Dichlorobenzoyl)pyrrole-3-carboxylic Acid | ClC1=C(C(=O)C2=CC(=CN2)C(=O)O)C=CC(=C1)Cl | C12H7Cl2NO3
